US07049307B2
To a stirred solution of 1-[2-(3,3-dimethoxypropyl)-2H-indazol-6-yl]-3-(4-phenoxyphenyl)urea (832 mg, 1.87 mmol) in acetone (15 mL) was added 2N aqueous HCl (7.5 mL) and the reaction was heated to 50 C for 3h. The heating bath was removed and the reaction was concentrated under reduced pressure to a volume of ˜5 mL. Et2O was added to the slurry with stirring and the mixture was filtered. The solid was washed with additional Et2O (10 mL) and air-dried to give 1-[2-(3-oxopropyl)-2H-indazol-6-yl]-3-(4-phenoxyphenyl)urea as a beige solid. 1H NMR (300 MHz, DMSO-D6) δ ppm 3.11 (t, J=6.27 Hz, 2 H), 4.67 (t, J=6.61 Hz, 2 H), 6.97 (m, 5 H), 7.10 (m, 1 H), 7.36 (m, 2 H), 7.48 (m, 2 H), 7.59 (m, 1 H), 7.82 (s, 1 H), 8.26 (s, 1 H), 8.70 (m, 2 H) and 9.75 (s, 1 H); MS (ESI) 399 (M−H)−.

reactant | 1-[2-(3,3-dimethoxypropyl)-2H-indazol-6-yl]-3-(4-phenoxyphenyl)urea | 1.87 mmol, 832 mg | COC(CCN1N=C2C=C(C=CC2=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=CC=C1)OC | C25H26N4O4
reactant | HCl | 2N, 7.5 mL | Cl | ClH
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | 1-[2-(3-oxopropyl)-2H-indazol-6-yl]-3-(4-phenoxyphenyl)urea | O=CCCN1N=C2C=C(C=CC2=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=CC=C1 | C23H20N4O3
